US06184225B2
7-Benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (1.53 g, 3.25 mmol) and 10% palladium-on-charcoal catalyst (1 80 mg) in a mixture of methanol/DMF/trichloromethane (75 ml, 6 ml, 30 ml) was stirred under hydrogen at 1.5 atmospheres for 45 minutes. The catalyst was removed by filtration through diatomaceous earth and the solvent removed from the filtrate by evaporation. The residue was triturated with ether, the resulting solid collected by filtration and dried under vacuum to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxyquinazoline hydrochloride (1.23 g, 84%) as an orange solid.

reactant | 7-Benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 3.25 mmol, 1.53 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F
catalyst | palladium-on-charcoal | 80 mg | [Pd] | Pd
solvent | methanol DMF trichloromethane | 75 ml | CO.CN(C)C=O.ClC(Cl)Cl
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxyquinazoline hydrochloride | 1.23 g, 84% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)O)C=C(C(=C1)C)OC(=O)OC | InChI=1S/C17H14FN3O4.ClH/c1-9-5-12(18)14(7-15(9)25-17(23)24-2)21-16-11-4-3-10(22)6-13(11)19-8-20-16;/h3-8,22H,1-2H3,(H,19,20,21);1H
